US07645878B2
Preparation of N-[2-(aminocarbonyl)phenyl]-2,3-dihydro-1-benzofuran-5-carboxamide
A mixture of 2,3-dihydrobenzo[b]furan-5-carboxylic acid (1.0 g, 6.1 mmol) in thionyl chloride (2.2 mL, 30.5 mmol) is stirred at room temperature for 4 h. The volatiles were removed by evaporation. To a solution of the residue and anthranilamide (750 mg, 5.5 mmol) in CHCl3 (30 mL) is added pyridine (670 □L, 8.3 mmol) and the mixture stirred at room temperature for 18 h. The volatiles were removed by evaporation and the residue is partitioned between EtOAc and 1 N sodium carbonate. The resulting precipitate that formed between the aqueous and organic phases is collected by filtration and dried under vacuum to afford the desired intermediate (1.5 g, 5.3 mmol; 87% yield); ); Rf=0.31 (EtOAc/hexanes, 95/5); mp=230-235° C.; ES MS(M+H)+=283.

reactant | 2,3-dihydrobenzo[b]furan-5-carboxylic acid | 6.1 mmol, 1.0 g | O1C2=C(CC1)C=C(C=C2)C(=O)O | C9H8O3
reactant | thionyl chloride | 30.5 mmol, 2.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | anthranilamide | 5.5 mmol, 750 mg | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | pyridine | 8.3 mmol | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(aminocarbonyl)phenyl]-2,3-dihydro-1-benzofuran-5-carboxamide | 5.3 mmol, 1.5 g, 87% yield | NC(=O)C1=C(C=CC=C1)NC(=O)C=1C=CC2=C(CCO2)C1 | C16H14N2O3
